US04061856
Using the apparatus and procedure of Example 5, a triaryl-s-triazine ring cross-linked benzimidazole-imidazopyrrolone copolymer is prepared by reacting 22.50 grams of a solvent mixture of dimethylsulfoxide and N-methylpyrrolidone, 3.46 grams of 4-cyanophthalic anhydride, 6.42 grams of dimethyl-5-cyanoisophthalate, 9.51 grams of 3, 3', 4, 4'-tetraminobenzophenone, and 0.10 grams of benzenephosphenic acid.

reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-cyanophthalic anhydride | 3.46 grams | C(#N)C=1C=C2C(C(=O)OC2=O)=CC1 | C9H3NO3
reactant | dimethyl-5-cyanoisophthalate | 6.42 grams | COC(C1=CC(C(=O)OC)=CC(=C1)C#N)=O | C11H9NO4
reactant | 3, 3', 4, 4'-tetraminobenzophenone | 9.51 grams | NC=1C=C(C(=O)C2=CC(=C(C=C2)N)N)C=CC1N | C13H14N4O
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | benzimidazole imidazopyrrolone | N1=CNC2=C1C=CC=C2.N=1C(N=C2C1C=CN2)=O | InChI=1S/C7H6N2.C5H3N3O/c1-2-4-7-6(3-1)8-5-9-7;9-5-7-3-1-2-6-4(3)8-5/h1-5H,(H,8,9);1-2H,(H,6,7,8,9)
